US07282512B2
To 840.8 mg (4.77 mmol) of 1-benzylcyclopentanol in 2.4 mL of toluene was added 816.7 mg (4.77 mmol) of methyl(2S)-2-isocyanatohexanoate. The mixture was heated at 85° C. for 4 d. The solution was concentrated and the residue was purified by silica gel column chromatography eluting with an ethyl acetate:hexanes solution (1:4) to give 1.31 g (79%) of methyl(2S)-2-({[(1-benzylcyclopentyl)oxy]carbonyl}amino)hexanoate. Rf=0.31 (1:4 ethyl acetate:hexanes); 1H NMR (300 MHz, DMSO-d6) δ 7.37 (d, J=8 Hz, 1H), 7.27-7.06 (m, 5H), 4.00 (m, 1H), 3.64 (s, 3H), 3.19 (ABq, JAB=14 Hz, ΔνAB=9 Hz, 2H), 1.96-1.78 (m, 2H), 1.76-1.38 (m, 8H), 1.36-1.14 (m, 4H), 0.86 (t, J=7 Hz, 3H); ES-LCMS m/z 370 (M+Na).

reactant | 1-benzylcyclopentanol | 4.77 mmol, 840.8 mg | C(C1=CC=CC=C1)C1(CCCC1)O | C12H16O
reactant | methyl(2S)-2-isocyanatohexanoate | 4.77 mmol, 816.7 mg | N(=C=O)[C@H](C(=O)OC)CCCC | C8H13NO3
solvent | toluene | 2.4 mL | C1(=CC=CC=C1)C | C7H8
product | methyl(2S)-2-({[(1-benzylcyclopentyl)oxy]carbonyl}amino)hexanoate | 1.31 g, 79% | C(C1=CC=CC=C1)C1(CCCC1)OC(=O)N[C@H](C(=O)OC)CCCC | C20H29NO4
